US08957064B2
4-(6-Phenyl-3-vinylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde
400 mg 4-(3-bromo-6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde (prepared as described above), 504 mg tributyl(vinyl)stannane, 176 mg tetraethylammonium chloride, 147 mg K2CO3 and 19 mg Pd(PPh3)2Cl2 were suspended in 10 mL THF under a nitrogen atmosphere. The mixture was heated (microwave irradiation) to 110° C. for 45 min. This mixture was worked up by diluting with water and extraction with dichloromethane. The combined organic layers were dried over Na2SO4 and concentrated to yield the crude product, which was purified by chromatography on silica gel (ethyl acetate/dichloromethane).

reactant | 4-(3-bromo-6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 400 mg | BrC=1C=NN2C1N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C19H12BrN3O
reactant | tributyl(vinyl)stannane | 504 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | K2CO3 | 147 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetraethylammonium chloride | 176 mg | [Cl-].C(C)[N+](CC)(CC)CC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | 19 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(6-Phenyl-3-vinylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2C=C)C2=CC=C(C=O)C=C2 | C21H15N3O
